US07419984B2
6-(5-Chloro-2-cyclohexylmethoxy-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 72, 4-chloro-6-(5-chloro-2-cyclohexylmethoxy-phenyl)-pyrimidin-2-yl-amine and 4-chloro-aniline provided the title compound (98% yield). 1H NMR (DMSO-d6) δ 1.15-1.19 (m, 4H, CH2) δ 1.65-1.73 (m, 6H, CH2), 3.89 (d, 2H, J=5.7 Hz, Ar), 6.49 (s, 1H, Ar), 7.27 (d, 1H, J=8.4 Hz, Ar), 7.46 (d, 2H, J=8.7 Hz, Ar), 7.61 (d, 2H, J=8.5 Hz, Ar), 7.82-7.85 (m, 2H, Ar).

reactant | 4-chloro-6-(5-chloro-2-cyclohexylmethoxy-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC1CCCCC1)N | C17H19Cl2N3O
reactant | 4-chloro-aniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-(5-Chloro-2-cyclohexylmethoxy-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 98% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OCC1CCCCC1 | C23H24Cl2N4O
